US09023858B2
A) 2-(methylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione
7-Methoxy-2-(methylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one (1.55 g) and pyridine hydrochloride (3.1 g) were added to N,N-dimethylformamide (20 ml), and the mixture was stirred at 120° C. for 2 hr, and allowed to be cooled. The reaction mixture was poured into 0.5M hydrochloric acid (22 ml), and the white precipitate was collected by filtration, washed with water, and dissolved in tetrahydrofuran (30 ml). The solution was diluted with ethyl acetate (60 ml), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was washed with ethyl acetate to give the title compound (1.33 g) as a white solid.

reactant | 7-Methoxy-2-(methylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one | 1.55 g | COC=1C=CC2=C(N=C(N(C2=O)C2=CC=C(C=C2)OCC(F)(F)F)SC)N1 | C17H14F3N3O3S
reactant | pyridine hydrochloride | 3.1 g | Cl.N1=CC=CC=C1
reactant | hydrochloric acid | 0.5M, 22 ml | Cl | ClH
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(methylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 1.33 g | CSC=1N(C(C2=C(N1)NC(C=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C16H12F3N3O3S
